US04629797
Ethyl 4-hydroxy-2-oxo-1-pyrrolidineacetate
A solution of 0.16 g ethyl 2-oxo-4-(tetrahydropyran-2-yl)-1-pyrrolidineacetate is dissolved in 5 ml ethanol containing 16 mg pyridinium p-toluenesulphonate. The mixture is heated 4 h at 35° , the ethanol is evaporated and the residue chromatographed on silica. The title compound is obtained as a colourless oil in 62% yield.

reactant | ethyl 2-oxo-4-(tetrahydropyran-2-yl)-1-pyrrolidineacetate | 0.16 g | O=C1N(CC(C1)C1OCCCC1)CC(=O)OCC | C13H21NO4
reactant | ethanol | 5 ml, 16 mg | C(C)O | C2H6O
product | Ethyl 4-hydroxy-2-oxo-1-pyrrolidineacetate | 62% yield | OC1CC(N(C1)CC(=O)OCC)=O | C8H13NO4
